US06770662B2
Using 1.5 g (8.3 mmol) of 2-chloro-4-trifluoromethylpyridine and 1.4 g (8.2 mmol) of 2-methyl-4,5-(methylenedioxy)benzaldehyde, 2.1 g (yield 73%) of (2-methyl-4,5-(methylenedioxy)phenyl)(2-chloro-4-trifluoromethyl-3-pyridyl)methanol (m.p. 127-130° C.) was obtained by a process in accordance with step (a) of Synthesis Example 1.

reactant | 2-chloro-4-trifluoromethylpyridine | 8.3 mmol, 1.5 g | ClC1=NC=CC(=C1)C(F)(F)F | C6H3ClF3N
reactant | 2-methyl-4,5-(methylenedioxy)benzaldehyde | 8.2 mmol, 1.4 g | CC1=C(C=O)C=C2C(=C1)OCO2 | C9H8O3
product | (2-methyl-4,5-(methylenedioxy)phenyl)(2-chloro-4-trifluoromethyl-3-pyridyl)methanol | 2.1 g, yield 73% | CC1=C(C=C2C(=C1)OCO2)C(O)C=2C(=NC=CC2C(F)(F)F)Cl | C15H11ClF3NO3
